US04287118
Sodium antimonate obtained from U.S. Antimony Corporation (9.49 g, 0.02347 mole) was placed in a reaction vessel and 1-decanethiol from Eastman Kodak (50 ml, 0.2347 mole) added and stirred. Concentrated hydrochloric acid (3.9 ml, 0.0468 mole) was added dropwise and an immediate temperature increase of 4° C. was observed. The mixture was heated and the byproduct of the reaction, water, was distilled over at 28° C. and a vacuum of 50 mm Hg. After 2.5 hours 45.57 g of antimony (V) decanethiol was obtained. The product was filtered to remove unreacted sodium antimonate and the additional byproduct of the reaction, sodium chloride.

reactant | Sodium antimonate | [Sb]([O-])([O-])([O-])=O.[Na+].[Na+].[Na+]
reactant | Antimony | [Sb] | Sb
reactant | 1-decanethiol | C(CCCCCCCCC)S | C10H22S
reactant | hydrochloric acid | 0.0468 mole, 3.9 ml | Cl | ClH
solvent | water | O | H2O
product | antimony (V) decanethiol | 45.57 g | C(CCCCCCCCC)S.[Sb+5] | InChI=1S/C10H22S.Sb/c1-2-3-4-5-6-7-8-9-10-11;/h11H,2-10H2,1H3;/q;+5
